US07238695B2
2-{(1R)-1-[(4-Methoxybenzyl)amino]-2-[indol-3-yl]ethyl}-4-phenyl-1H-imidazole (C27H26N4O, MW=422.54)
2-{(1R)-1-Amino-2-[indol-3-yl]ethyl}-4-phenyl-1H-imidazole (36.3 mg, 0.12 mmol) and p-anisaldehyde (12 μL, 0.1 mmol) in 1 mL of methanol were shaken for about 2 hours at about 22° C. Borohydride resin (76 mg, 2.5 mmol/g, AMBERLITE® IRA-400) was then added and the slury was stirred overnight before addition of dichloromethane (1 mL) and aldehyde Wang resin (31 mg, 3.22 mmol/g, Novabiochem). After about 8 hours of stirring, the slurry was then filtered and evaporated in vacuo to give a yellow solid (32.2 mg, 76%). 1H-NMR (CDCl3, 100 MHz) δ: 8.86 (br s, 1H); 7.73-6.68 (m, 15H); 4.62 (s, 1H); 4.33 (dd, J=4.7 and 8.5 Hz, 1H); 3.81 (s, 2H); 3.74 (s, 3H); 3.27 (ABX system, 2H) 2.26 (s, 1H). LC/MS: m/z=423 (M+H).

reactant | 2-{(1R)-1-Amino-2-[indol-3-yl]ethyl}-4-phenyl-1H-imidazole | 0.12 mmol, 36.3 mg | N[C@H](CC1=CNC2=CC=CC=C12)C=1NC=C(N1)C1=CC=CC=C1 | C19H18N4
reactant | p-anisaldehyde | 0.1 mmol, 12 μL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | Borohydride | 76 mg | [BH4-]
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | 2-{(1R)-1-[(4-Methoxybenzyl)amino]-2-[indol-3-yl]ethyl}-4-phenyl-1H-imidazole | 32.2 mg, 76% | COC1=CC=C(CN[C@H](CC2=CNC3=CC=CC=C23)C=2NC=C(N2)C2=CC=CC=C2)C=C1 | C27H26N4O
